US06518264B2
3-3′-Difluorobenzophenone oxime may be prepared according to the following procedure: a solution of 1.6 g of hydroxylamine hydrochloride in 8 cm3 of water is poured dropwise into a solution of 5.0 g of 3,3′-difluorobenzophenone in 10 cm3 of ethanol, and then 1.2 g of sodium hydroxide pellets are added in small fractions. The reaction mixture, heated under reflux for 10 minutes, is cooled to 20° C. and then acidified with 7.5 cm3 of 4 N hydrochloric acid. Once triturated, the oily precipitate obtained becomes a white solid which is filtered, washed with water and then dried at 35° C. under reduced pressure (2.7 kPa). 5.17 g of 3,3′-difluorobenzophenone oxime are obtained in the form of a white solid.

reactant | hydroxylamine hydrochloride | 1.6 g | Cl.NO
reactant | 3,3′-difluorobenzophenone | 5.0 g | FC=1C=C(C(=O)C2=CC(=CC=C2)F)C=CC1 | C13H8F2O
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | hydrochloric acid | 4 N, 7.5 cm3 | Cl | ClH
solvent | water | 8 cm3 | O | H2O
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
product | 3,3′-difluorobenzophenone oxime | 5.17 g | FC=1C=C(C(C2=CC(=CC=C2)F)=NO)C=CC1 | C13H9F2NO
